US07371869B2
To a solution of 2-((S)-2-amino-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester (0.93 g, 3.04 mmol), benzyloxycarbonylamino-(4-methoxy-3-methyl-phenyl)-acetic acid (1.0 g, 3.04 mmol), diisopropylethylamine (2.1 mL, 12 mmol) and 1-hydroxybenzotriazole (0.46 g, 3.04 mmol) in N,N-dimethylformamide (10 mL) at 0° C. was added O-benzotriazol-1-yl-N,N, N′,N′-tetramethyluronium hexaflurorophosphate (1.15 g, 3.04 mmol). The reaction mixture was stirred at 0° C. for 2 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was separated, washed with water, brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography over silica gel eluted with 2:1 ethyl acetate/hexanes to give 2-{(S)-2-[2-benzyloxycarbonylamino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester as a white solid (1.3 g, 69%).

reactant | 2-((S)-2-amino-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | 3.04 mmol, 0.93 g | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)N)=O | C14H15N3O3S
reactant | benzyloxycarbonylamino-(4-methoxy-3-methyl-phenyl)-acetic acid | 3.04 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1=CC(=C(C=C1)OC)C | C18H19NO5
reactant | diisopropylethylamine | 12 mmol, 2.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole | 3.04 mmol, 0.46 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | O-benzotriazol-1-yl-N,N, N′,N′-tetramethyluronium | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-{(S)-2-[2-benzyloxycarbonylamino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester | 1.3 g, 69% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(C(C1=CC(=C(C=C1)OC)C)NC(=O)OCC1=CC=CC=C1)=O)=O | C32H32N4O7S
